US05438052
N-Hydroxy-α-(phthalimidooxy)-p-toluamide (10.0 g) (32 mmol) are suspended in 80 ml of absolute dimethylformamide and treated at -5° C. with 1.86 g (40 mmol) of methylhydrazine. After stirring at room temperature for 2.5 hours 40 ml of solvent are distilled off in a high vacuum at room temperature. Insoluble material is filtered off and washed with a small amount of dimethylformamide. The mother liquor and wash solution are treated with 70 ml of ethanol. After stirring at 0° C. for 1/2 hour the precipitated crystalline product is filtered off under suction and washed with a small amount of ethanol. After drying in a high vacuum at room temperature there are obtained 3.9 g of α-(aminooxy)-N-hydroxy-p-toluamide as white crystals of m.p. 145° C. (dec.).

reactant | N-Hydroxy-α-(phthalimidooxy)-p-toluamide | 32 mmol, 10.0 g | ONC(=O)C1=CC=C(C=C1)CON1C(C=2C(C1=O)=CC=CC2)=O | C16H12N2O5
reactant | methylhydrazine | 40 mmol, 1.86 g | CNN | CH6N2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | α-(aminooxy)-N-hydroxy-p-toluamide | 3.9 g | NOCC1=CC=C(C=C1)C(=O)NO | C8H10N2O3
